US08859504B2
Synthesis of 2-((S)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (I-20)
A mixture of N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide (0.500 g, 0.455 mmol) and L-malic acid (213.6 mg, 0.55 mmol) were mixed in THF (5 mL). The mixture was heated to form a solution. The solution was cooled uncontrolled until the internal temperature was about 25° C. White solid precipitated out and the resultant slurry was agitated at ambient temperature for 1 h. The slurry was filtered to collect solid 2-((S)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (0.625 g, 95%). MS (m/z) in CH3CN: [M+H] calculated for C23H28BN4O7, 483.2051. found, 483.2.

reactant | N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide | 0.455 mmol, 0.500 g | O1B(OB(OB1[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C57H69B3N12O9
reactant | L-malic acid | 0.55 mmol, 213.6 mg | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-((S)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid | CC(C[C@H](NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)B1OC([C@@H](O1)CC(=O)O)=O)C | C23H27BN4O7
